US08309580B2
(1) [5-(5-methoxypyridin-2-yl)-2-methylfuran-3-yl]methanol
A mixture of tert-butyl({5-[(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)methyl]-2-methylfuran-3-yl}methoxy)dimethylsilane (1.9 g), 2-bromo-5-methoxypyridine (2.0 g), tetrakis(triphenylphosphine)palladium(0) (0.4 g), 2N aqueous sodium carbonate solution (7 mL) and 1,2-dimethoxyethane (20 mL) was stirred overnight with refluxing under an argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (20 mL), 1N tetrabutylammonium fluoride in tetrahydrofuran (10 mL) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, purified by silica gel chromatography (10% ethyl acetate/hexane to 100% ethyl acetate/hexane), and crystallized from ethyl acetate/hexane to give the title compound (1.0 g, 65%) as a white crystal.

reactant | tert-butyl({5-[(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)methyl]-2-methylfuran-3-yl}methoxy)dimethylsilane | 1.9 g | C(C)(C)(C)[Si](C)(C)OCC1=C(OC(=C1)CB1OCC(CO1)(C)C)C | C18H33BO4Si
reactant | 2-bromo-5-methoxypyridine | 2.0 g | BrC1=NC=C(C=C1)OC | C6H6BrNO
reactant | sodium carbonate | 2N, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | [5-(5-methoxypyridin-2-yl)-2-methylfuran-3-yl]methanol | 1.0 g, 65% | COC=1C=CC(=NC1)C1=CC(=C(O1)C)CO | C12H13NO3
